US09278973B2
To a solution of 1H-indazole-5-carboxylic acid (8.6 g, 53.04 mmol) in AcOH (200 ml) was added acetic anhydride (16.2 g), and the reaction was stirred for 2.5 h at 80° C. The resulting solution was diluted with n-hexane (400 ml). The solids were collected by filtration and washed with hexane (5×100 ml) to afford 1-acetyl-1H-indazole-5-carboxylic acid as an orange solid (8.5 g, 78%).

reactant | 1H-indazole-5-carboxylic acid | 53.04 mmol, 8.6 g | N1N=CC2=CC(=CC=C12)C(=O)O | C8H6N2O2
reactant | acetic anhydride | 16.2 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | AcOH | 200 ml | CC(=O)O | C2H4O2
solvent | n-hexane | 400 ml | CCCCCC | C6H14
product | 1-acetyl-1H-indazole-5-carboxylic acid | 8.5 g, 78% | C(C)(=O)N1N=CC2=CC(=CC=C12)C(=O)O | C10H8N2O3
